US04014920
152 g (1 mol) of 4-hydroxy-3-methoxy-benzaldehyde, 41 g of sodium acetate, 80 g of N-acetylglycine and 242 g of acetic anhydride are heated together for 30 minutes to 100° C and then for 21/2 hours to the refluxing temperature. The resulting solution is cooled to 0° C and the crystals which have separated out are filtered off and washed with water. The crude 2-methyl-4-(3-methoxy-4-acetoxy-benzylidene)-5(4H)-oxazolone thus obtained is heated to the boil with 1,400 ml of acetone and 545 ml of water for 15 hours under a reflux condenser. Thereafter, the acetone is largely distilled off, whereupon the product crystallises out. After filtration, and washing with acetone, 4-acetoxy-α-acetylamino-3-methoxy-cinnamic acid of melting point 205°-206° C is obtained.

reactant | 4-hydroxy-3-methoxy-benzaldehyde | 1 mol, 152 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | sodium acetate | 41 g | C(C)(=O)[O-].[Na+]
reactant | N-acetylglycine | 80 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | acetic anhydride | 242 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-4-(3-methoxy-4-acetoxy-benzylidene)-5(4H)-oxazolone | CC=1OC(C(N1)=CC1=CC(=C(C=C1)OC(C)=O)OC)=O | C14H13NO5
